US05352705
N-[2(R)-(t-butoxycarbonyl)amino-3-triphenylmethylmercaptopropyl]-L-isoleucine
N-[2(R)-(t-butoxycarbonyl)amino-3-triphenylmethylmercaptopropyl]-L-isoleucine methyl ester (1.63 g, 0.0028 mol) was dissolved in MeOH (50 mL) and 1N NaOH solution (11.23 mL, 0.0112 mol) was added with stirring at ambient temperature. After 4 h,.solid NaOH (2.0 g) was added and stirring was continued for 16 h. The reaction mixture was concentrated to remove MeOH and extracted with EtOAc (2×100 mL). The extract was washed with brine and dried (Na2SO4). Filtration and concentration to dryness gave 1.6 g of the title compound.

reactant | N-[2(R)-(t-butoxycarbonyl)amino-3-triphenylmethylmercaptopropyl]-L-isoleucine methyl ester | 0.0028 mol, 1.63 g | COC([C@@H](NC[C@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OC(C)(C)C)[C@@H](C)CC)=O | C34H44N2O4S
reactant | NaOH | 0.0112 mol, 1N, 11.23 mL | [OH-].[Na+]
reactant | NaOH | 2.0 g | [OH-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
product | N-[2(R)-(t-butoxycarbonyl)amino-3-triphenylmethylmercaptopropyl]-L-isoleucine | 1.6 g | C(C)(C)(C)OC(=O)N[C@H](CN[C@@H]([C@@H](C)CC)C(=O)O)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H42N2O4S
